US07923450B2
[4-(2-Chloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared from [3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (45 mg, 0.18 mmol) and 6-bromo-2-(2-chloro-phenyl)-cyclohexanone (145 mg, ca. 0.5 mmol) using in analogous manner the procedure described in example 1b). Obtained as a light-brown solid (68 mg, 76%). MS ISP (m/e): 439.1 [(M+H)+]. mp 204-206° C.

reactant | [3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.18 mmol, 45 mg | FC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C11H11FN4S
reactant | 6-bromo-2-(2-chloro-phenyl)-cyclohexanone | ca. 0.5 mmol, 145 mg | BrC1CCCC(C1=O)C1=C(C=CC=C1)Cl | C12H12BrClO
product | [4-(2-Chloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=C(C=CC=C1)C1CCCC2=C1N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)F | C23H20ClFN4S
